US07196200B2
tert-butyl 3-piperidinylcarbamate
A mixture of tert-butyl 3-pyridinylcarbamate (2.2 g) and 5% rhodium on carbon (200 mg) in ethanol (50 mL) at 25° C. in a paar apparatus was stirred under hydrogen at 60 pounds per square inch for 24 hours, filtered through diatomaceous earth (Celite®), and concentrated. 1H NMR (300 MHz, CDCl3) δ 5.86 (b, 1H), 3.59 (b, 1H), 3.07 (dd, 1H), 2.84 (m, 1H), 2.68 (m, 1H), 2.55 (m, 1H), 2.10 (s, 1H), 1.82 (m, 1H), 1.68 (m, 1H), 1.50 (m, 1H), 1.46 (s, 9H).

reactant | tert-butyl 3-pyridinylcarbamate | 2.2 g | N1=CC(=CC=C1)NC(OC(C)(C)C)=O | C10H14N2O2
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | rhodium on carbon | 200 mg | [Rh] | Rh
product | tert-butyl 3-piperidinylcarbamate | N1CC(CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
